US07468375B2
Step 1: Methyl 1-(4-fluorobenzyl)-3-[(tetrahydro-2H-pyran-4-yloxy)methyl]-1H-pyrrolo[2,3-c]pyridine-5-carboxylate
The title compound was prepared as in example 116, step 1, using methyl 3-[(dimethylamino) methyl]-1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate and tetrahydro-2H-pyran-4-ol.

reactant | methyl 3-[(dimethylamino) methyl]-1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | CN(C)CC1=CN(C2=CN=C(C=C21)C(=O)OC)CC2=CC=C(C=C2)F | C19H20FN3O2
reactant | tetrahydro-2H-pyran-4-ol | O1CCC(CC1)O | C5H10O2
product | Methyl 1-(4-fluorobenzyl)-3-[(tetrahydro-2H-pyran-4-yloxy)methyl]-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)OC)COC3CCOCC3)C=C1 | C22H23FN2O4
